US05854224
Succinic acid can be protected with benzyl alcohol in the presence of DCC to obtain mono benzyl succinic acid. The product can then be purified via silica gel chromatography. Mono benzyl succinic acid can then be activated with HOSU in the presence of DCC and then coupled to Tris to obtain benzyl-succinate. This compound can then be acylated with lauric acid in the presence of DCC to give a mixture of the title compound. The three compounds can then be separated by silica gel chromatography with elution by organic solvents.

reactant | Succinic acid | C(CCC(=O)O)(=O)O | C4H6O4
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | mono benzyl succinic acid | C(C1=CC=CC=C1)C(C(=O)O)CC(=O)O | C11H12O4
